US08222416B2
To a solution of 2-{2-cyclopentyl-1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-ethyl}-5-fluoro-1H-pyrrolo[2,3-b]pyridine (210 mg, 0.47 mmol) in dichloromethane (10 mL) at 0° C. was added a solution of boron tribromide (0.22 ml, 2.36 mmol) in dichloromethane (10 ml). The mixture was stirred at 0° C. for 1 h. The reaction was quenched with a saturated aqueous sodium bicarbonate solution (20 mL). The mixture was extracted with dichloromethane (2×50 mL), washed with a saturated aqueous sodium bicarbonate solution (3×20 mL) and brine (3×20 mL), dried over anhydrous sodium sulfate and concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded (2-{4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-benzenesulfonyl}-ethanol (40 mg, 20%) as a white solid: LC/MS m/e calcd for C22H25FN2O3S [M+H]+ 417.52, observed 417.0; 1H NMR (400 MHz, CD3OD) δ ppm 7.98 (t, J=2.3 Hz, 1H), 7.83-7.88 (m, J=8.3 Hz, 2H), 7.56-7.65 (m, 3H), 6.38 (s, 1H), 4.89-4.99 (m, 1H), 4.68-4.84 (m, 1H), 4.59 (br. s., 1H), 4.29 (t, J=8.0 Hz, 1H), 3.82 (t, J=6.2 Hz, 2H), 3.37 (t, J=6.2 Hz, 2H), 2.22-2.30 (m, 1H), 2.05-2.13 (m, 1H), 1.58-1.85 (m, 4H), 1.42-1.54 (m, 2H), 1.13-1.34 (m, 3H).

reactant | 2-{2-cyclopentyl-1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-ethyl}-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 0.47 mmol, 210 mg | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)CCOCC)C1=CC=2C(=NC=C(C2)F)N1 | C24H29FN2O3S
reactant | boron tribromide | 2.36 mmol, 0.22 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-{4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-benzenesulfonyl}-ethanol | 40 mg, 20% | C1(CCCC1)CC(C1=CC=2C(=NC=C(C2)F)N1)C1=CC=C(C=C1)S(=O)(=O)CCO | C22H25FN2O3S
